### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): add some API for regular sheaves and the equalizer condition

### PR DESCRIPTION
**Pull request by dagurtomas**
This PR gives an equivalent condition to `regularTopology.EqualizerCondition` (previously called `regularCoverage.EqualizerCondition`), phrased in more categorical language. We use this new condition to show that `EqualizerCondition` respects natural isomorphisms.

---
- [x] depends on: #10421 
- [x] depends on: #11696  

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 1]
```diff
@@ -36,7 +36,7 @@ class Presieve.regular {X : C} (R : Presieve X) : Prop where
   single_epi : ∃ (Y : C) (f : Y ⟶ X), R = Presieve.ofArrows (fun (_ : Unit) ↦ Y)
     (fun (_ : Unit) ↦ f) ∧ EffectiveEpi f
 
-namespace regularCoverage
+namespace regularTopology
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:39]: I prefer regularCoverage: regularTopology seems too much related to "true" topology.

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 2]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+theorem equalizerCondition_iff_isIso_lift_aux_comp (P : Cᵒᵖ ⥤ Type*) {X B : C} (π : X ⟶ B)
+    [HasPullback π π] : MapToEqualizer P π pullback.fst pullback.snd pullback.condition =
+    equalizer.lift (P.map π.op) (equalizerCondition_iff_isIso_lift_w P π) ≫
+    (Types.equalizerIso _ _).hom := by
+  rw [← Iso.comp_inv_eq (α := Types.equalizerIso _ _)]
+  apply equalizer.hom_ext
+  simp only [Category.assoc, Types.equalizerIso_inv_comp_ι, limit.lift_π, Fork.ofι_pt,
+    Fork.ofι_π_app]
+  ext
+  rfl
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:71]:
```suggestion

```

Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:71]:
```suggestion
  simp only [Category.assoc, Types.equalizerIso_inv_comp_ι, limit.lift_π, Fork.ofι_pt,
    Fork.ofι_π_app]
  rfl
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 3]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
     (MapToEqualizer P π (pullback.fst (f := π) (g := π)) (pullback.snd (f := π) (g := π))
     pullback.condition)
 
+theorem equalizerCondition_iff_isIso_lift_w (P : Cᵒᵖ ⥤ Type*) {X B : C} (π : X ⟶ B)
+    [HasPullback π π] : P.map π.op ≫ P.map (pullback.fst (f := π) (g := π)).op =
+    P.map π.op ≫ P.map (pullback.snd).op := by
+  simp only [← Functor.map_comp, ← op_comp, pullback.condition]
+
+theorem equalizerCondition_iff_isIso_lift_aux_comp (P : Cᵒᵖ ⥤ Type*) {X B : C} (π : X ⟶ B)
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:62]: Why the "aux" in the name?

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 4]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+    simp only [Functor.comp_obj, Functor.op_obj, unop_op, Functor.comp_map, Functor.op_map,
+      Quiver.Hom.unop_op, Category.assoc, limit.lift_π, op_comp, id_eq, eq_mpr_eq_cast, cast_eq,
+      Fork.ofι_pt, Fork.ofι_π_app, Category.id_comp]
+    exact equalizer.lift_ι _ _
+  inv_hom_id := by
+    apply equalizer.hom_ext
+    simp only [Functor.comp_obj, Functor.op_obj, unop_op, Functor.comp_map, Functor.op_map,
+      Quiver.Hom.unop_op, Category.assoc, Category.id_comp]
+    erw [equalizer.lift_ι, equalizer.lift_ι]
+
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:124]: Can you add a line of doc?

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 5]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+    Quiver.Hom.unop_op, mapToEqualizer_pullback_comp_aux]
+  apply equalizer.hom_ext
+  simp only [Functor.comp_obj, Functor.op_obj, unop_op, Functor.comp_map, Functor.op_map,
+    Quiver.Hom.unop_op, Category.assoc]
+  erw [equalizer.lift_ι, equalizer.lift_ι, equalizer.lift_ι]
+
+theorem equalizerCondition_precomp_of_preservesPullback {D : Type*} [Category D] (P : Cᵒᵖ ⥤ Type*)
+    (F : D ⥤ C)
+    [∀ {X B} (π : X ⟶ B) [EffectiveEpi π], PreservesLimit (cospan π π) F]
+    [F.PreservesEffectiveEpis] -- merge the stuff from the effective epi file added in #10013
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:143]:
```suggestion
    [F.PreservesEffectiveEpis]
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 6]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+theorem equalizerCondition_of_natIso_aux
+    {P : Cᵒᵖ ⥤ Type*} {P' : Cᵒᵖ ⥤ Type _} (i : P ≅ P') {X B : C} (π : X ⟶ B)
+    [HasPullback π π] :
+    (equalizer.ι (P.map (pullback.fst (f := π) (g := π)).op) (P.map pullback.snd.op) ≫
+      i.hom.app (op X)) ≫ P'.map pullback.fst.op =
+      (equalizer.ι (P.map pullback.fst.op) (P.map pullback.snd.op) ≫ i.hom.app (op X)) ≫
+      P'.map (pullback.snd  (f := π) (g := π)).op := by
+  rw [Category.assoc, Category.assoc, ← i.hom.naturality (pullback.fst (f := π) (g := π)).op,
+    ← i.hom.naturality (pullback.snd (f := π) (g := π)).op, ← Category.assoc, equalizer.condition]
+  simp
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:161]:
```suggestion
  rw [Category.assoc, Category.assoc, ← i.hom.naturality (pullback.fst (f := π) (g := π)).op,
    ← i.hom.naturality (pullback.snd (f := π) (g := π)).op, ← Category.assoc, equalizer.condition,
    Category.assoc, NatTrans.naturality]
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 7]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+    equalizer (P'.map (pullback.fst (f := π) (g := π)).op) (P'.map pullback.snd.op) where
+  hom := equalizer.lift (equalizer.ι _ _ ≫ i.hom.app (op X)) (equalizerCondition_of_natIso_aux i π)
+  inv := equalizer.lift (equalizer.ι _ _ ≫ i.inv.app (op X))
+    (equalizerCondition_of_natIso_aux i.symm π)
+  hom_inv_id := by apply equalizer.hom_ext; simp
+  inv_hom_id := by apply equalizer.hom_ext; simp
+
+theorem equalizerCondition_of_natIso {P : Cᵒᵖ ⥤ Type*} {P' : Cᵒᵖ ⥤ Type _} (i : P ≅ P')
+    (hP : EqualizerCondition P) :
+    EqualizerCondition P' := by
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:179]:
```suggestion
    (hP : EqualizerCondition P) : EqualizerCondition P' := by
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 8]
```diff
@@ -97,21 +238,21 @@ lemma isSheafFor_regular_of_projective {X : C} (S : Presieve X) [S.regular] [Pro
 
 lemma EqualizerCondition.isSheaf_iff (F : Cᵒᵖ ⥤ Type*)
     [∀ ⦃X Y : C⦄ (π : X ⟶ Y) [EffectiveEpi π], HasPullback π π] [Preregular C] :
-    Presieve.IsSheaf (regularCoverage C).toGrothendieck F ↔ EqualizerCondition F := by
-  rw [Presieve.isSheaf_coverage]
+    Presieve.IsSheaf (regularTopology C) F ↔ EqualizerCondition F := by
```
Comment (faenuccio) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:241]: As commented above, I am not very much in favour of this renaming.

File: Mathlib/Condensed/Explicit.lean [hunk 9]
```diff
@@ -29,16 +29,15 @@ continuous surjection), the presheaf `F` exhibits `F(B)` as the equalizer of th
 
 universe v u
 
-open CategoryTheory Limits Opposite Functor Presieve regularCoverage
+open CategoryTheory Limits Opposite Functor Presieve regularTopology
```
Comment (faenuccio) [inline Mathlib/Condensed/Explicit.lean:32]: See my comments in the first file about this renaming

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 10]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+    (hP : EqualizerCondition P) : EqualizerCondition (F.op ⋙ P) := by
+  rw [equalizerCondition_iff_isIso_lift] at hP ⊢
+  intro X B π _ _
+  have := hasPullback_of_preservesPullback F π π
+  have := hP (F.obj X) (F.obj B) (F.map π)
+  rw [mapToEqualizer_pullback_comp (F := F)]
+  exact IsIso.comp_isIso
+
+theorem equalizerCondition_of_natIso_aux
+    {P : Cᵒᵖ ⥤ Type*} {P' : Cᵒᵖ ⥤ Type _} (i : P ≅ P') {X B : C} (π : X ⟶ B)
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:153]:
```suggestion
    {P P' : Cᵒᵖ ⥤ Type u} (i : P ≅ P') {X B : C} (π : X ⟶ B)
```
This is exactly the same (declaring `u` of course), but I think it is more readable. (Same below.)

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 11]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+    (equalizerCondition_of_natIso_aux i.symm π)
+  hom_inv_id := by apply equalizer.hom_ext; simp
+  inv_hom_id := by apply equalizer.hom_ext; simp
+
+theorem equalizerCondition_of_natIso {P : Cᵒᵖ ⥤ Type*} {P' : Cᵒᵖ ⥤ Type _} (i : P ≅ P')
+    (hP : EqualizerCondition P) :
+    EqualizerCondition P' := by
+  rw [equalizerCondition_iff_isIso_lift] at hP ⊢
+  intro X B π _ _
+  specialize hP X B π
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:182]:
```suggestion
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 12]
```diff
@@ -54,6 +54,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+    (equalizer.lift (P.map π.op) (equalizerCondition_iff_isIso_lift_w P π)) := by
+  -- unfold EqualizerCondition
+  refine ⟨fun h X B π _ _ ↦ ?_, fun h X B π _ _ ↦ ?_⟩
+  · specialize h X B π
+    rw [← isIso_iff_bijective, equalizerCondition_iff_isIso_lift_aux_comp] at h
+    exact IsIso.of_isIso_comp_right (equalizer.lift (P.map π.op)
+      (equalizerCondition_iff_isIso_lift_w P π))
+      (Types.equalizerIso _ _).hom
+  · specialize h X B π
+    rw [equalizerCondition_iff_isIso_lift_aux_comp, ← isIso_iff_bijective]
```
Comment (riccardobrasca) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:84]:
```suggestion
  · rw [equalizerCondition_iff_isIso_lift_aux_comp, ← isIso_iff_bijective]
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean (hunk 1 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:39]: `regularTopology` is consistent with `coherentTopology` and `extensiveTopology`. Do you not like those either or is it just this one because of the notion of regular topological space?

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:41]: An obvious advantage of using `regularTopology` is that `regularTopology C` is a lot shorter than `(regularCoverage C).toGrothendieck`. 

Also, it's in the `CategoryTheory` namespace, which avoids confusion with general topology.

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean (hunk 8 above)
Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:240]: Resolving to keep the discussion about the renaming on the first comment

File: Mathlib/Condensed/Explicit.lean (hunk 9 above)
Comment (dagurtomas) [reply Mathlib/Condensed/Explicit.lean:32]: Resolving this to keep the discussion about the renaming on the first comment

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:41]: I agree `regularTopology` is better: writing
```lean
IsSheaf (regularTopology C) F
```
is nice.

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 13]
```diff
@@ -54,9 +56,147 @@ def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
...
+
+lemma mapToEqualizer_eq_comp (P : Cᵒᵖ ⥤ Type*) {X B : C} (π : X ⟶ B)
+    [HasPullback π π] : MapToEqualizer P π pullback.fst pullback.snd pullback.condition =
+    equalizer.lift (P.map π.op) (equalizerCondition_iff_isIso_lift_w P π) ≫
+    (Types.equalizerIso _ _).hom := by
+  rw [← Iso.comp_inv_eq (α := Types.equalizerIso _ _)]
+  apply equalizer.hom_ext
+  aesop
+
+theorem equalizerCondition_iff_isIso_lift (P : Cᵒᵖ ⥤ Type*) : EqualizerCondition P ↔
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:72]: In order to have an API which parallels what we have for `PreservesLimit`, could you change the definition of `EqualizerCondition` so that it becomes:
```lean
def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
  ∀ ⦃X B : C⦄ (π : X ⟶ B) [EffectiveEpi π] (c : PullbackCone π π) (_ : IsLimit c),
    Nonempty (IsLimit (P.mapCone (PushoutCocone.mk _ _ c.condition).op))
```
(Actually, you may also replace `Type*` by any category, which should allow handling (pre)sheaves in any category directly.)

(It would makes sense to give a name to this definition `c => PushoutCocone.mk _ _ c.condition`, and maybe develop the relation with this construction with `EffectiveEpi`: show that if a pullback cocone like this is limit, then corresponding square is both cartesian and cocartesian.)

Then, I would think that when translated in the language of general pushout/pullbackback co/cones, the code would eventually look nicer.

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:72]: More precisely, modulo a small refactor of `isLimitMapConePullbackConeEquiv` so that it allows any `PullbackCone` rather than those constructed by `PullbackCone.mk`, and a general compatibility of pullback squares with isos, the proof of `equalizerCondition_of_natIso` would become much easier:
```lean
section

variable {D : Type*} [Category D] (G : C ⥤ D) {X Y Z : C} {f : X ⟶ Z} {g : Y ⟶ Z}
  (c : PullbackCone f g)

def isLimitMapConePullbackConeEquiv :
    IsLimit (G.mapCone c) ≃
      IsLimit (PullbackCone.mk (G.map c.fst) (G.map c.snd)
      (by simpa using G.congr_map c.condition) : PullbackCone (G.map f) (G.map g)) := sorry
end

def PullbackCone.isLimitOfIsos {X₁ X₂ S : C} {f₁ : X₁ ⟶ S} {f₂ : X₂ ⟶ S}
    (c : PullbackCone f₁ f₂) (hc : IsLimit c) {X₁' X₂' S' : C}
    {f₁' : X₁' ⟶ S'} {f₂' : X₂' ⟶ S'} (c' : PullbackCone f₁' f₂')
    (e₀ : S ≅ S') (e₁ : X₁ ≅ X₁') (e₂ : X₂ ≅ X₂') (e : c.pt ≅ c'.pt)
    (comm₁ : e₁.hom ≫ f₁' = f₁ ≫ e₀.hom := by aesop_cat)
    (comm₂ : e₂.hom ≫ f₂' = f₂ ≫ e₀.hom := by aesop_cat)
    (comm₃ : e.hom ≫ c'.fst = c.fst ≫ e₁.hom := by aesop_cat)
    (comm₄ : e.hom ≫ c'.snd = c.snd ≫ e₂.hom := by aesop_cat) : IsLimit c' := sorry

theorem equalizerCondition_of_natIso {P P' : Cᵒᵖ ⥤ A} (i : P ≅ P')
    (hP : EqualizerCondition P) : EqualizerCondition P' := fun {X B} π _ c hc =>
  ⟨(isLimitMapConePullbackConeEquiv P' _).2
    (PullbackCone.isLimitOfIsos _ ((isLimitMapConePullbackConeEquiv P _).1 (hP π c hc).some) _
    (i.app _) (i.app _) (i.app _) (i.app _))⟩
```

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:124]: Thanks for the suggestions! I didn't do the `mapCone` version, but a slightly different one which worked quite well. It also uses general pullback cones.

File: Mathlib/CategoryTheory/Limits/Shapes/Equalizers.lean [hunk 14]
```diff
@@ -693,11 +693,35 @@ def Fork.ext {s t : Fork f g} (i : s.pt ≅ t.pt) (w : i.hom ≫ t.ι = s.ι :=
...
+    (comm₂ : e₀.hom ≫ g' = g ≫ e₁.hom := by aesop_cat)
+    (comm₃ : e.hom ≫ c'.ι = c.ι ≫ e₀.hom := by aesop_cat) : IsLimit c' := by
+  let i : parallelPair f g ≅ parallelPair f' g' := parallelPair.ext e₀ e₁ comm₁.symm comm₂.symm
+  refine (IsLimit.equivOfNatIsoOfIso i c c' (Cones.ext e ?_)) hc
+  rintro ⟨j⟩
+  · exact comm₃.symm
+  · simp only [i, Cones.postcompose_obj_pt, Functor.const_obj_obj, parallelPair_obj_one,
+      Cones.postcompose_obj_π, NatTrans.comp_app, Fork.app_one_eq_ι_comp_left,
+      parallelPair_obj_zero, parallelPair.ext_hom_app, Category.assoc]
+    rw [← comm₁, ← Category.assoc, ← comm₃, Category.assoc]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Shapes/Equalizers.lean:723]:
```suggestion
  exact (IsLimit.equivOfNatIsoOfIso i c c' (Fork.ext e comm₃)) hc
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 15]
```diff
@@ -26,53 +26,140 @@ namespace CategoryTheory
...
-def EqualizerCondition (P : Cᵒᵖ ⥤ Type*) : Prop :=
+/-- The explicit equalizer condition. -/
+def EqualizerConditionExpl (P : Cᵒᵖ ⥤ Type*) : Prop :=
   ∀ (X B : C) (π : X ⟶ B) [EffectiveEpi π] [HasPullback π π], Function.Bijective
     (MapToEqualizer P π (pullback.fst (f := π) (g := π)) (pullback.snd (f := π) (g := π))
     pullback.condition)
 
+/-- The explicit equalizer condition is equivalent to the formal one. -/
+theorem equalizerCondition_iff_expl (P : Cᵒᵖ ⥤ Type*) :
+    EqualizerCondition P ↔ EqualizerConditionExpl P := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:85]: In terms of API, I am not sure we need to introduce `EqualizerConditionExpl`: I would rather see this as a theorem `EqualizerCondition.bijective_mapToEqualizer_pullback`, and the converse would be a constructor `EqualizerCondition.mk`.

Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:85]: In terms of API, I am not sure we need to introduce `EqualizerConditionExpl`: I would rather see this as a theorem `EqualizerCondition.bijective_mapToEqualizer_pullback`, and the converse would be a constructor `EqualizerCondition.mk`.

**Comment by joelriou** [comment]
It seems one of the suggestions I made yesterday did not appear on github. I was suggesting generalizing the statements in order to obtain results directly for presheaves in any category, not just the category of types. See the commit https://github.com/leanprover-community/mathlib4/commit/d423936e1dd36dd3b0545984a438c005c6e72440 on the draft branch [dagur_EqualizerConditionAPI_jriou](https://github.com/leanprover-community/mathlib4/compare/dagur_EqualizerConditionAPI_jriou)
I suggest defining an equalizer condition `SingleEqualizerCondition` for just one morphism and then define `EqualizerCondition` as this condition for all effective epi. Then, after adding the missing lemma `Presheaf.isSheaf_iff_isLimit_coverage` in `Sites.Coverage`, the characterization of sheaves `equalizerCondition_iff_isSheaf : EqualizerCondition F ↔ Presheaf.IsSheaf (regularTopology C) F` is reduced to the (sorried) verification that `SingleEqualizerCondition P π` holds iff `Nonempty (IsLimit (P.mapCone (Sieve.ofArrows (fun (_ : Unit) => X) (fun _ => π)).arrows.cocone.op))`.

**Comment by dagurtomas** [comment]
@joelriou I finally managed to prove your lemma `equalizerConditionMap_iff_nonempty_isLimit`, it was harder than expected. I hope it's readable

**Comment by joelriou** [comment]
Thanks for finding a nice proof! I had a more low tech approach, but using the a certain functor is initial is definitely a better approach. I will try to see soon how to make some improvements in the code.

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 16]
```diff
@@ -26,65 +27,262 @@ namespace CategoryTheory
...
+
+/-- `P` satisfies the equalizer condition iff its precomposition by an equivalence does. -/
+theorem equalizerCondition_iff_of_equivalence (P : Cᵒᵖ ⥤ D)
+    (e : C ≌ E) : EqualizerCondition P ↔ EqualizerCondition (e.op.inverse ⋙ P) :=
+  ⟨fun h ↦ equalizerCondition_precomp_of_preservesPullback P e.inverse h, fun h ↦
+    equalizerCondition_of_natIso (e.op.funInvIdAssoc P)
+      (equalizerCondition_precomp_of_preservesPullback (e.op.inverse ⋙ P) e.functor h)⟩
+
+open WalkingParallelPair WalkingParallelPairHom in
+theorem parallelPair_initial_of_zigzag_zero {X Y : C} (f g : X ⟶ Y)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:158]: I would suggest the following lemmas which could go into a new file `CategoryTheory.Limits.Final.ParallelPair`:
```lean
lemma _root_.CategoryTheory.Limits.parallelPair_initial_mk' {X Y : C} (f g : X ⟶ Y)
    (h₁ : ∀ Z, Nonempty (X ⟶ Z))
    (h₂ : ∀ ⦃Z : C⦄ (i j : X ⟶ Z),
      Zigzag (J := CostructuredArrow (parallelPair f g) Z)
        (CostructuredArrow.mk (Y := zero) i)
        (CostructuredArrow.mk (Y := zero) j)) : (parallelPair f g).Initial where
  out Z := by
    have : Nonempty (CostructuredArrow (parallelPair f g) Z) :=
      ⟨CostructuredArrow.mk (Y := zero) (h₁ Z).some⟩
    have : ∀ (x : CostructuredArrow (parallelPair f g) Z), Zigzag x
      (CostructuredArrow.mk (Y := zero) (h₁ Z).some) := by
        rintro ⟨(_|_), ⟨⟩, φ⟩
        · apply h₂
        · refine Relation.ReflTransGen.trans ?_ (h₂ (f ≫ φ) _)
          exact Relation.ReflTransGen.single (Or.inr ⟨CostructuredArrow.homMk left⟩)
    exact zigzag_isConnected (fun x y => (this x).trans (zigzag_symmetric (this y)))

lemma _root_.CategoryTheory.Limits.parallelPair_initial_mk {X Y : C} (f g : X ⟶ Y)
    (h₁ : ∀ Z, Nonempty (X ⟶ Z))
    (h₂ : ∀ ⦃Z : C⦄ (i j : X ⟶ Z), ∃ (a : Y ⟶ Z), i = f ≫ a ∧ j = g ≫ a) :
    (parallelPair f g).Initial :=
  parallelPair_initial_mk' f g h₁ (fun Z i j => by
    obtain ⟨a, rfl, rfl⟩ := h₂ i j
    have z₁ : Zigzag (J := CostructuredArrow (parallelPair f g) Z)
      (CostructuredArrow.mk (Y := zero) (f ≫ a))
      (CostructuredArrow.mk (Y := one) a) := Relation.ReflTransGen.single
        (Or.inl ⟨CostructuredArrow.homMk left⟩)
    have z₃ : Zigzag (J := CostructuredArrow (parallelPair f g) Z)
      (CostructuredArrow.mk (Y := one) a)
      (CostructuredArrow.mk (Y := zero) (g ≫ a)) := Relation.ReflTransGen.single
        (Or.inr ⟨CostructuredArrow.homMk right⟩)
    exact z₁.trans z₃)
```
I believe that the general API for zigzags could be improved. A first step would be to remove the `reducible` tag to `Zigzag` and `Zag`, and introduce suitable lemmas (like `Zag.of_hom`, `zag.of_inv`, `Zag.symm`, `Zigzag.trans`, etc.) because I have felt that there is too much `Relation.ReflTransGen` API leakage.

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 17]
```diff
@@ -26,65 +27,262 @@ namespace CategoryTheory
...
+        (Or.inl ⟨CostructuredArrow.homMk right rfl⟩))
+    · refine (?_ : Zigzag _ _).trans (h (i ≫ (H.map left).unop) j)
+      exact Relation.ReflTransGen.single (Or.inr ⟨CostructuredArrow.homMk left rfl⟩)
+    · refine ((?_ : Zigzag _ _).trans
+        (h (i ≫ (H.map left).unop) (j ≫ (H.map right).unop))).trans
+        (Relation.ReflTransGen.single (Or.inl ⟨CostructuredArrow.homMk right rfl⟩))
+      exact Relation.ReflTransGen.single (Or.inr ⟨CostructuredArrow.homMk left rfl⟩)
+
+open WalkingParallelPair WalkingParallelPairHom in
+theorem parallelPair_pullback_initial {X B : C} (π : X ⟶ B) (c : PullbackCone π π)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:178]: For convenience, the following API for the category attached to a presieve could be introduced:
```lean
-- change the definition of `Presieve.diagram` to make this the source category
abbrev _root_.CategoryTheory.Presieve.category {X : C} (P : Presieve X) :=
  FullSubcategory fun f : Over X => P f.hom

abbrev _root_.CategoryTheory.Presieve.categoryMk {X : C} (P : Presieve X)
  {Y : C} (f : Y ⟶ X) (hf : P f) : P.category := ⟨Over.mk f, hf⟩
```

Then, the phrasing of this lemma can be slightly improved:
```lean
theorem parallelPair_pullback_initial {X B : C} (π : X ⟶ B)
    (c : PullbackCone π π) (hc : IsLimit c) :
    (parallelPair (C := (Sieve.ofArrows (fun (_ : Unit) => X) (fun _ => π)).arrows.categoryᵒᵖ)
    (Y := op ((Presieve.categoryMk _ (c.fst ≫ π) ⟨_, c.fst, π, ofArrows.mk (), rfl⟩)))
    (X := op ((Presieve.categoryMk _ π (Sieve.ofArrows_mk _ _ Unit.unit))))
    (Quiver.Hom.op (Over.homMk c.fst)) (Quiver.Hom.op (Over.homMk c.snd c.condition.symm))).Initial := by
  apply Limits.parallelPair_initial_mk
  all_goals sorry
```
(I am thinking that we could also introduce an avbreviation `Sieve.ofSingleArrow π`.)

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean]: Ok, I've filled in this sorry. I'll clean everything up tomorrow,

File: Mathlib/CategoryTheory/Sites/Sieves.lean [hunk 18]
```diff
@@ -50,10 +50,18 @@ namespace Presieve
 noncomputable instance : Inhabited (Presieve X) :=
   ⟨⊤⟩
 
+/-- The full subcategory of the over category `C/X` consisting of arrows in `S` to `C`. -/
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Sieves.lean:53]:
```suggestion
/-- The full subcategory of the over category `C/X` consisting of arrows which belong to a presieve of `X`. -/
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 19]
```diff
@@ -27,65 +29,219 @@ namespace CategoryTheory
...
+    pullback.fst (f := π) (g := π) := by simp
+  have hb' : P.map (pullback.fst (f := π) (g := π)).op b = P.map pullback.snd.op b := by
+    rw [← h₁, op_comp, FunctorToTypes.map_comp_apply, hb]
+    simp [← FunctorToTypes.map_comp_apply, ← op_comp]
+  obtain ⟨a, ha₁, ha₂⟩ := hP ⟨b, hb'⟩
+  refine ⟨a, ?_, ?_⟩
+  · simpa [MapToEqualizer] using ha₁
+  · simpa [MapToEqualizer] using ha₂
+
+lemma equalizerCondition_iff_isIso_lift_w (P : Cᵒᵖ ⥤ Type*) {X B : C} (π : X ⟶ B)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:122]:
```suggestion
lemma equalizerCondition_w' (P : Cᵒᵖ ⥤ Type*) {X B : C} (π : X ⟶ B)
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 20]
```diff
@@ -27,65 +29,219 @@ namespace CategoryTheory
...
+/--
+Given a limiting pullback cone, the fork in `SingleEqualizerCondition` is limiting iff the diagram
+in `Presheaf.isSheaf_iff_isLimit_coverage` is limiting.
+-/
+noncomputable def isLimit_forkOfι_equiv (P : Cᵒᵖ ⥤ D) {X B : C} (π : X ⟶ B)
+    (c : PullbackCone π π) (hc : IsLimit c) :
+    IsLimit (Fork.ofι (P.map π.op) (equalizerCondition_w P c)) ≃
+    IsLimit (P.mapCone (Sieve.ofArrows (fun (_ : Unit) ↦ X) fun _ ↦ π).arrows.cocone.op) := by
+  let S := (Sieve.ofArrows (fun (_ : Unit) => X) (fun _ => π)).arrows
+  let E := @FullSubcategory (Over B) (fun f ↦ S f.hom)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:189]: I believe that this proof can be cleaned up a bit due to the new API.

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean]: It uses the `Presieve.category` API now. Did you have anything else in mind?

File: Mathlib/CategoryTheory/Limits/Final/ParallelPair.lean [hunk 21]
```diff
@@ -0,0 +1,52 @@
...
+variable {C : Type*} [Category C]
+
+open WalkingParallelPair WalkingParallelPairHom CostructuredArrow
+
+lemma parallelPair_initial_mk' {X Y : C} (f g : X ⟶ Y)
+    (h₁ : ∀ Z, Nonempty (X ⟶ Z))
+    (h₂ : ∀ ⦃Z : C⦄ (i j : X ⟶ Z),
+      Zigzag (J := CostructuredArrow (parallelPair f g) Z)
+        (mk (Y := zero) i)
+        (mk (Y := zero) j)) : (parallelPair f g).Initial where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Final/ParallelPair.lean:30]:
```suggestion
        (mk (Y := zero) i) (mk (Y := zero) j)) :
    (parallelPair f g).Initial where
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 22]
```diff
@@ -27,65 +29,197 @@ namespace CategoryTheory
...
+    equalizer.lift (P.map π.op) (equalizerCondition_w' P π) ≫
+    (Types.equalizerIso _ _).hom := by
+  rw [← Iso.comp_inv_eq (α := Types.equalizerIso _ _)]
+  apply equalizer.hom_ext
+  aesop
+
+/-- An alternative phrasing of the explicit equalizer condition, using more categorical language. -/
+theorem equalizerCondition_iff_isIso_lift (P : Cᵒᵖ ⥤ Type*) : EqualizerCondition P ↔
+    ∀ (X B : C) (π : X ⟶ B) [EffectiveEpi π] [HasPullback π π], IsIso
+    (equalizer.lift (P.map π.op) (equalizerCondition_w' P π)) := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:138]:
```suggestion
    ∀ (X B : C) (π : X ⟶ B) [EffectiveEpi π] [HasPullback π π],
      IsIso (equalizer.lift (P.map π.op) (equalizerCondition_w' P π)) := by
```

File: Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean [hunk 23]
```diff
@@ -27,65 +29,197 @@ namespace CategoryTheory
...
+    [HasPullback π π] : SingleEqualizerCondition P π ↔
+      Nonempty (IsLimit (P.mapCone
+        (Sieve.ofArrows (fun (_ : Unit) => X) (fun _ => π)).arrows.cocone.op)) := by
+  constructor
+  · intro h
+    exact ⟨isLimit_forkOfι_equiv _ _ _ (pullbackIsPullback π π) (h _ (pullbackIsPullback π π)).some⟩
+  · intro ⟨h⟩
+    exact fun c hc ↦ ⟨(isLimit_forkOfι_equiv _ _ _ hc).symm h⟩
+
+lemma equalizerCondition_iff_isSheaf (F : Cᵒᵖ ⥤ D) [Preregular C]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Coherent/RegularSheaves.lean:213]: The docstring at the beginning of the file should be changed because it refers to a lemma `isSheaf_iff_equalizerCondition`.

**Comment by joelriou** [comment]
Thanks very much for your efforts!

bors merge

**Comment by dagurtomas** [comment]
@joelriou maybe try bors merge again now that CI is done?

**Comment by riccardobrasca** [comment]
Thanks all!

bors merge
